* Learning Test — Neuron adapts output to match target voltage
*
* Phase 1 (0–1s):    VIN1=+0.5, VIN2=-0.5, OUT connected to 0.5V via 100k
*                     Behavioral weight update: dW/dt = K * VIN * error
*                     Weights adjust to reduce error -> V_out converges to 0.5V
* Phase 2 (1–2s):    Target disconnected. Output & weights should hold steady.
* Phase 3 (2–3s):    Slowly ramp VIN1 from +0.5 to -0.5
* Phase 4 (3–4s):    Slowly ramp VIN2 from -0.5 to +0.5
* Phase 5 (4–5s):    Hold — observe final output
*
* Initial weights: W1=-0.1, W2=+0.1 (asymmetric, initial output ~ 0V)
* Target: 0.5V at OUT
*
* Weight update uses ideal behavioral sources implementing the gradient
* descent rule: I_w = K * VIN * (target - Vout), with K ~ 1 uA/V^2
* matching the analog bk_mult gradient constant.
* The real bk_mult cells require pulsed (AC) error signals due to
* coupling cap DC blocking; this test uses ideal DC-capable updates.

.include neuron.spice

***********************************************************************
* POWER SUPPLIES
***********************************************************************
VCC vcc 0 DC 5
VEE vee 0 DC -5

***********************************************************************
* WEIGHT PROGRAMMING (1G resistors — negligible restoring force)
***********************************************************************
Vw1_prog w1_prog 0 DC -0.1
Rw1_prog w1_prog w1_node 1G
Vw2_prog w2_prog 0 DC 0.1
Rw2_prog w2_prog w2_node 1G

***********************************************************************
* NEURON INSTANCE
***********************************************************************
X1 vin1 vin2 vout vcc vee w1_node w2_node neuron

* Initial weight cap voltages
.ic V(w1_node)=-0.1 V(w2_node)=0.1

***********************************************************************
* INPUT SOURCES (PWL for phase transitions)
***********************************************************************
Vin1 vin1 0 PWL(0 0.5 2 0.5 3 -0.5 5 -0.5)
Vin2 vin2 0 PWL(0 -0.5 3 -0.5 4 0.5 5 0.5)

***********************************************************************
* TARGET CONNECTION (behavioral 100k resistor, switchable)
***********************************************************************
V_sw sw 0 PWL(0 1 0.999 1 1.001 0 5 0)
B_target 0 vout I = V(sw) * (0.5 - V(vout)) / 100k

***********************************************************************
* IDEAL WEIGHT UPDATE
* Implements gradient descent: dW_i/dt = (1/C) * K * VIN_i * error
* K = 1 uA/V^2 (matches bk_mult gradient constant)
* Current into weight cap: I = K * VIN_i * (target - Vout)
* Only active when target is connected (sw=1)
***********************************************************************
B_dw1 0 w1_node I = V(sw) * 1u * V(vin1) * (0.5 - V(vout))
B_dw2 0 w2_node I = V(sw) * 1u * V(vin2) * (0.5 - V(vout))

***********************************************************************
* SIMULATION
***********************************************************************
.control

set noaskquit

tran 1m 5 UIC

* Write data for plotting
wrdata learning_vout.txt V(vout) V(vin1) V(vin2)
wrdata learning_weights.txt V(w1_node) V(w2_node)
wrdata learning_sw.txt V(sw)

* Measurements
echo ""
echo "=========================================="
echo "Learning Test Results"
echo "=========================================="

meas TRAN vout_t0     FIND V(vout)    AT=1m
meas TRAN vout_100ms  FIND V(vout)    AT=0.1
meas TRAN vout_250ms  FIND V(vout)    AT=0.25
meas TRAN vout_500ms  FIND V(vout)    AT=0.5
meas TRAN vout_1s     FIND V(vout)    AT=0.999
meas TRAN vout_1s_off FIND V(vout)    AT=1.01
meas TRAN vout_2s     FIND V(vout)    AT=1.999
meas TRAN vout_3s     FIND V(vout)    AT=3.0
meas TRAN vout_4s     FIND V(vout)    AT=4.0
meas TRAN vout_5s     FIND V(vout)    AT=4.999

meas TRAN w1_t0    FIND V(w1_node) AT=1m
meas TRAN w1_500ms FIND V(w1_node) AT=0.5
meas TRAN w1_1s    FIND V(w1_node) AT=0.999
meas TRAN w1_2s    FIND V(w1_node) AT=1.999
meas TRAN w1_5s    FIND V(w1_node) AT=4.999

meas TRAN w2_t0    FIND V(w2_node) AT=1m
meas TRAN w2_500ms FIND V(w2_node) AT=0.5
meas TRAN w2_1s    FIND V(w2_node) AT=0.999
meas TRAN w2_2s    FIND V(w2_node) AT=1.999
meas TRAN w2_5s    FIND V(w2_node) AT=4.999

echo ""
echo "--- Output Voltage ---"
echo "Initial (1ms):"
print vout_t0
echo "After 100ms:"
print vout_100ms
echo "After 250ms:"
print vout_250ms
echo "After 500ms:"
print vout_500ms
echo "Just before disconnect (1s):"
print vout_1s
echo "Just after disconnect:"
print vout_1s_off
echo "After 1s hold (2s):"
print vout_2s
echo "After VIN1 ramp to -0.5 (3s):"
print vout_3s
echo "After VIN2 ramp to +0.5 (4s):"
print vout_4s
echo "Final (5s):"
print vout_5s

echo ""
echo "--- Weights ---"
echo "W1: t=0 -> 500ms -> 1s -> 2s -> 5s"
print w1_t0 w1_500ms w1_1s w1_2s w1_5s
echo "W2: t=0 -> 500ms -> 1s -> 2s -> 5s"
print w2_t0 w2_500ms w2_1s w2_2s w2_5s

.endc
.end
